US07348354B2
2-[3-(4-Dimethylamino-4-phenylcyclohexylmethyl)thioureido]-3-(1H-indol-3-yl)propionic acid methyl ester
Tryptophan methyl ester hydrochloride (382 mg, 1.5 mmole) was dissolved in dry chloroform (15 ml) and combined with triethylamine (633 μl, 4.5 mmole). The mixture was cooled to −5° C. Thiophosgene (115 μl, 1.5 mmole) dissolved in chloroform (10 ml) was then added dropwise, resulting in the formation of a precipitate. After 18 h stirring at RT, the reaction mixture was clear. (4-Aminomethyl-1-phenyl-cyclohexyl)-dimethylamine (348.55 mg, 1.5 mmole), dissolved in chloroform (10 ml), was added at RT. After a reaction time of 48 h, the batch was washed with saturated NaHCO3 solution (3×5 ml) and water (5 ml). The organic phase was dried with Na2SO4 and evaporated. The product was a mixture of two diastereoisomers. These were purified and separated by column chromatography [silica gel 60 (100 g); eluent: MeOH/EE 1:4 (1500 ml) and MeOH/EE 1:1 (500 ml)]. The more nonpolar diastereoisomer of 2-[3-(4-dimethylamino-4-phenylcyclohexylmethyl)thioureido]-3-(1H-indol-3-yl)propionic acid methyl ester (193 mg, m.p. 178-183° C., 26%) and also the more polar diastereoisomer of 2-[3-(4-dimethylamino-4-phenylcyclohexyl-methyl)thioureido]-3-(1H-indol-3-yl)propionic acid methyl ester (157 mg, m.p. 228-234° C., 21%) were light yellow solids.

reactant | Tryptophan methyl ester hydrochloride | 1.5 mmole, 382 mg | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | triethylamine | 4.5 mmole, 633 μl | C(C)N(CC)CC | C6H15N
reactant | Thiophosgene | 1.5 mmole, 115 μl | C(=S)(Cl)Cl | CCl2S
reactant | (4-Aminomethyl-1-phenyl-cyclohexyl)-dimethylamine | 1.5 mmole, 348.55 mg | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-(4-Dimethylamino-4-phenylcyclohexylmethyl)thioureido]-3-(1H-indol-3-yl)propionic acid methyl ester | COC(C(CC1=CNC2=CC=CC=C12)NC(=S)NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C28H36N4O2S
